US07417169B2
4-Bromo-2-isopropylbenzoic acid
A mixture of methyl 4-bromo-2-isopropylbenzoate (0.41 g) and lithium hydroxide monohydrate (0.669 g) in water (1 mL)/1,4-dioxane (3 mL) was stirred at room temperature for 5 days. To the reaction mixture was added 2 mol/L hydrochloric acid (10 mL), and the resulting mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure, and the residue was recrystallized from ethyl acetate/n-hexane to afford the title compound (0.276 g).

reactant | methyl 4-bromo-2-isopropylbenzoate | 0.41 g | BrC1=CC(=C(C(=O)OC)C=C1)C(C)C | C11H13BrO2
reactant | lithium hydroxide monohydrate | 0.669 g | O.[OH-].[Li+]
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 2 mol/L, 10 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 4-Bromo-2-isopropylbenzoic acid | 0.276 g | BrC1=CC(=C(C(=O)O)C=C1)C(C)C | C10H11BrO2
